US07767680B2
Piperidine (0.0054 g, 0.064 mmol) was added to a stirred solution of N-(3-methoxybenzyl)-4-(2-fluorophenyl)-N-isopropyl-2-(methylsulfonyl)pyrimidine-5-carboxamide (0.015 g, 0.032 mmol) in THF (1 mL) and the mixture was heated at 80° C. for 1 h. The solvent was removed under reduced pressure, and the product was purified by preparative HPLC (5-80% CH3CN/0.05% TFA gradient over 15 min) to give N-(3-methoxybenzyl)-4-(2-fluorophenyl)-N-isopropyl-2-(piperdin-1-yl)pyrimidine-5-carboxamide Compound No. 20 (0.012 g, 81%).

reactant | Piperidine | 0.064 mmol, 0.0054 g | N1CCCCC1 | C5H11N
reactant | N-(3-methoxybenzyl)-4-(2-fluorophenyl)-N-isopropyl-2-(methylsulfonyl)pyrimidine-5-carboxamide | 0.032 mmol, 0.015 g | COC=1C=C(CN(C(=O)C=2C(=NC(=NC2)S(=O)(=O)C)C2=C(C=CC=C2)F)C(C)C)C=CC1 | C23H24FN3O4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(3-methoxybenzyl)-4-(2-fluorophenyl)-N-isopropyl-2-(piperdin-1-yl)pyrimidine-5-carboxamide | COC=1C=C(CN(C(=O)C=2C(=NC(=NC2)N2CCCCC2)C2=C(C=CC=C2)F)C(C)C)C=CC1 | C27H31FN4O2
